US07390819B2
E1. 8-Methyl-quinoline-1-oxide
A solution of 2.45 g of m-chloroperbenzoic acid in 15 ml of dichloromethane is added dropwise to a solution of 1 g of commercially available 8-methylquinoline in 15 ml of dichloromethane. The reaction mixture is stirred over night diluted with 30 ml of dichloremethane and extracted two times each with 50 ml of halfsaturated aqueous sodium hydrogencarbonate solution. The organic layer is dried over magnesium sulfate, filtered and evaporated in vacuo. The residue is chromatographed on silica gel (dichloromethane/methanol 98:2). 1 g of the title compound are obtained as colourless solid.

reactant | m-chloroperbenzoic acid | 2.45 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 8-methylquinoline | CC=1C=CC=C2C=CC=NC12 | C10H9N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 8-Methyl-quinoline-1-oxide | 1 g | CC=1C=CC=C2C=CC=[N+](C12)[O-] | C10H9NO
